US07238716B2
To a mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (1.95 g), 2-(2-hydroxy-5-methoxymethoxyphenyl)acetonitrile (1.0 g) and N,N-dimethylformamide (50 mL) was added sodium hydride (60%, oil, 0.23 g) under ice-cooling, and the mixture was stirred at 80° C. for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The organic, layer was washed successively with water, 2N aqueous sodium hydroxide solution and saturated brine, and dried over anhydrous magnesium sulfate. After concentration of the organic layer, the residue was subjected to silica gel column chromatography to give crystals (1.40 g, 57%) of 2-[5-methoxymethoxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 123-124° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 1.95 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | 2-(2-hydroxy-5-methoxymethoxyphenyl)acetonitrile | 1.0 g | OC1=C(C=C(C=C1)OCOC)CC#N | C10H11NO3
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.23 g | [H-].[Na+]
solvent | water | O | H2O
product | 2-[5-methoxymethoxy-2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]acetonitrile | 1.40 g, 57% | COCOC=1C=CC(=C(C1)CC#N)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H26N2O5
